US07622469B2
3,6-Dihydro-6,6-dimethyl-4-octylamino-2-benzylamino-1,3,5-triazine acetate
100 ml of methanol, 100 ml of acetone and 0.4 ml of concentrated hydrochloric acid were added to 5.0 g (13.3 mmol) of N1-benzyl-N5-octyl-biguanide dihydrochloride. The mixture was refluxed for 22 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in 100 ml of ethanol, and to the solution were added 80 ml of water and 5.8 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 1.5 hours, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure, and a portion (2.8 g) of 5.8 g of the resulting crystals were recrystallized from ether to obtain 1.1 g of colorless crystals having a melting point of 88 to 91° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | N1-benzyl-N5-octyl-biguanide dihydrochloride | 13.3 mmol, 5.0 g | Cl.Cl.C(C1=CC=CC=C1)NC(=N)NC(=N)NCCCCCCCC
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-octylamino-2-benzylamino-1,3,5-triazine acetate | 1.1 g | C(C)(=O)O.CC1(N=C(NC(=N1)NCC1=CC=CC=C1)NCCCCCCCC)C | InChI=1S/C20H33N5.C2H4O2/c1-4-5-6-7-8-12-15-21-18-23-19(25-20(2,3)24-18)22-16-17-13-10-9-11-14-17;1-2(3)4/h9-11,13-14H,4-8,12,15-16H2,1-3H3,(H3,21,22,23,24,25);1H3,(H,3,4)
